US08350034B2
tert-Butyl (4S)-4-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-5-[(methylsulfonyl)amino]pentylcarbamate (8.08 g, 16.3 mmol) was dissolved in 200 mL of CH2Cl2 and treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (2.91 mL, 19.5 mmol) After 1 hour, the reaction mixture was washed successively with H2O and brine and the organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 3% methanol/CHCl3) gave tert-butyl 3-[(11S)-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate (6.16 g) as a light yellow foam.

reactant | tert-Butyl (4S)-4-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-5-[(methylsulfonyl)amino]pentylcarbamate | 16.3 mmol, 8.08 g | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)[C@@H](CCCNC(OC(C)(C)C)=O)CNS(=O)(=O)C | C22H30ClN5O4S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 19.5 mmol, 2.91 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-[(11S)-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate | 6.16 g | CS(=O)(=O)N1CC=2N(C3=C(C=NC4=CC=CC=C34)N2)[C@H](C1)CCCNC(OC(C)(C)C)=O | C22H29N5O4S
